US04453972
2-Chloro-6-methyl-4-(2,5-dichloro-4-methylmercapto-phenoxy)-pyridine
A solution of 25.5 gm (0.1 mol) of potassium 2,5-dichloro-4-methylmercapto-phenolate and 16.2 gm (0.1 mol) of 2,4-dichloro-6-methyl-pyridine in 100 ml of dimethylformamide was heated under reflux for 5 hours. It was then cooled and poured into 300 ml of water. The precipitate which separated out was recovered by suction filtration, washed with water, and recrystallized from isopropanol.

reactant | potassium 2,5-dichloro-4-methylmercapto-phenolate | 0.1 mol, 25.5 gm | ClC1=C(C=C(C(=C1)SC)Cl)[O-].[K+]
reactant | 2,4-dichloro-6-methyl-pyridine | 0.1 mol, 16.2 gm | ClC1=NC(=CC(=C1)Cl)C | C6H5Cl2N
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-6-methyl-4-(2,5-dichloro-4-methylmercapto-phenoxy)-pyridine | ClC1=NC(=CC(=C1)OC1=C(C=C(C(=C1)Cl)SC)Cl)C | C13H10Cl3NOS
